US07772191B2
(2-Chloro-5-iodo-phenyl)-(4-fluoro-phenyl)-methanone
To a solution of 48.94 g 2-chloro-5-iodo-benzoic acid in 180 mL of fluorobenzene and 0.3 mL of N,N-dimethylformamide is added 16.2 mL of oxalyl chloride at 0 to 10° C. The solution is stirred at about 20° C. for 2 hours. The excess amount of oxalyl chloride is evaporated. The residue is diluted in 166 mL of fluorobenzene and 25.93 g of aluminum chloride is added at 0° C. in five portions. The solution is stirred at 75° C. for 1.5 hours and quenched with 300 mL of water at 0 to 25° C. The product is extracted in 300 mL of isopropylacetate and washed with two times of 200 mL brine (3 weight-%). The residue water and solvent is removed upon evaporation.

reactant | 2-chloro-5-iodo-benzoic acid | 48.94 g | ClC1=C(C(=O)O)C=C(C=C1)I | C7H4ClIO2
reactant | oxalyl chloride | 16.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | fluorobenzene | 180 mL | FC1=CC=CC=C1 | C6H5F
solvent | N,N-dimethylformamide | 0.3 mL | CN(C=O)C | C3H7NO
product | (2-Chloro-5-iodo-phenyl)-(4-fluoro-phenyl)-methanone | ClC1=C(C=C(C=C1)I)C(=O)C1=CC=C(C=C1)F | C13H7ClFIO
